US09216972B2
To 3-cyano-4-isopropoxybenzoic acid (0.3 g, 1.462 mmol) in a mixture of dichloromethane (4 mL) and MeOH (1.00 mL) was added trimethylsilyldiazomethane (0.950 mL, 1.9 mmol) dropwise over a period of 3 min at 0° C. The pale yellow solution was allowed to come to room temperature over a period of 15 min. and stirred at room temperature for 1.5 h. Excess trimethylsilyldiazomethane was quenched by the slow addition of acetic acid (˜0.5 ml) at room temperature until the yellow color was discharged. The reaction mixture was concentrated and partitioned between ether (20 mL) and sat. aq. sodium bicarbonate (10 mL). The ether layer was washed with brine (10 mL), dried over sodium sulfate and concentrated. The resulting oil was azeotroped with THF (5 mL) and dried under high vacuum to yield methyl 3-cyano-4-isopropoxybenzoate (0.32 g, 1.460 mmol, 100% yield) as an oil. LC/MS M+1=219.9.

reactant | 3-cyano-4-isopropoxybenzoic acid | 1.462 mmol, 0.3 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | trimethylsilyldiazomethane | 1.9 mmol, 0.950 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | MeOH | 1.00 mL | CO | CH4O
product | methyl 3-cyano-4-isopropoxybenzoate | 1.460 mmol, 0.32 g, 100% yield | C(#N)C=1C=C(C(=O)OC)C=CC1OC(C)C | C12H13NO3
